US08030489B2
A mixture of tert-butyl [(1S,2R)-2-(hydrazinocarbonyl)cyclopentyl]carbamate (370 mg) and ethanol (5.6 ml) was ice-cooled, and dithioxomethane (230 μl) and potassium hydroxide (120 mg) were added thereto in this order, followed by stirring at the same temperature for 30 minutes. The reaction mixture was stirred at room temperature for 1 hour, warmed, and heated for 6 hours under reflux. The reaction mixture was left to be cooled, and water (50 ml) and diethyl ether (50 ml) were added thereto, followed by liquid separation. The aqueous layer was ice-cooled, and 1 M hydrochloric acid was added thereto to adjust the pH to about 4, followed by extraction with ethyl acetate (50 ml). The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was washed with diisopropyl ether (5 ml) to obtain tert-butyl [(1S,2R)-2-(5-thioxo-4,5-dihydro-1,3,4-oxadiazol-2-yl)cyclopentyl]carbamate (308 mg) as a white solid.

reactant | tert-butyl [(1S,2R)-2-(hydrazinocarbonyl)cyclopentyl]carbamate | 370 mg | N(N)C(=O)[C@H]1[C@H](CCC1)NC(OC(C)(C)C)=O | C11H21N3O3
reactant | ethanol | 5.6 ml | C(C)O | C2H6O
reactant | dithioxomethane | 230 μl | S=C=S | CS2
reactant | potassium hydroxide | 120 mg | [OH-].[K+]
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | water | 50 ml | O | H2O
product | tert-butyl [(1S,2R)-2-(5-thioxo-4,5-dihydro-1,3,4-oxadiazol-2-yl)cyclopentyl]carbamate | 308 mg | S=C1NN=C(O1)[C@H]1[C@H](CCC1)NC(OC(C)(C)C)=O | C12H19N3O3S
